US04957928
10.6 g (0.216 mol) of sodium cyanide are added to a solution of 57.31 g (0.18 mol) of 2-(p-toluenesulphonyloxymethyl)chroman in 800 ml of absolute dimethylformamide and the whole is heated, while stirring, to 60°. After 10 hours, ice-water is added to the reaction mixture and extraction is carried out with diethyl ether. The combined ethereal phases are washed thoroughly with water, dried over sodium sulphate and concentrated by evaporation in vacuo. 30.0 g (96.2%) of crude product are obtained and are chromatographed on 1000 g of silica gel (0.040-0.063 mm) using toluene as the eluant. 18.16 g (58.2%) of 2-cyanomethylchroman are thus obtained in the form of a yellow oil.

reactant | sodium cyanide | 0.216 mol, 10.6 g | [C-]#N.[Na+]
reactant | 2-(p-toluenesulphonyloxymethyl)chroman | 0.18 mol, 57.31 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1OC2=CC=CC=C2CC1)C | C17H18O4S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 2-cyanomethylchroman | 18.16 g, 58.2% | C(#N)CC1OC2=CC=CC=C2CC1 | C11H11NO
